US04965270
To a solution of N-[1,4-bis(4-methoxybenzyloxy)but-2-oxy]phthalimide (10.3 g, 21 mmol) in dichloromethane (80 ml) was added methylhydrazine (1.49 ml, 28 mmol) and the solution was stirred at room temperature. After 20 minutes, further methylhydrazine (0.22 ml) was added. After a further 20 minutes the solution was filtered and the filtrate was extracted with aqueous sodium carbonate (3%). The organic layer was dried (magnesium sulphate) and the solvent removed. The residue was purified by column chromatography on silica gel eluting with hexane-ethyl acetate (1:1) to afford 1,4-bis(4-methoxybenzyloxy)but-2-oxyamine as a clear colourless oil (5.16 g, 68%). IR: υmax (film) 2860, 1615, 1515 and 1250 cm-1 ; 1H NMR: δH (CDCl3) 1.80 (2H, m, 3-H), 3.54 (4H, m, 1-H and 4-H), 3.80 (6H, s, 2×CH3), 3.86 (1H, m, 2-H), 4.42 (2H, s, ArCH2), 4.48 (2H, s, ArCH2), 5.37 (2H, s, D2O exchangeable, NH2), 6.87 (4H, m, Ar-H) and 7.25 (4H, m, Ar-H).

reactant | N-[1,4-bis(4-methoxybenzyloxy)but-2-oxy]phthalimide | 21 mmol, 10.3 g | COC1=CC=C(COCC(CCOCC2=CC=C(C=C2)OC)ON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C28H29NO7
reactant | methylhydrazine | 28 mmol, 1.49 ml | CNN | CH6N2
reactant | methylhydrazine | 0.22 ml | CNN | CH6N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1,4-bis(4-methoxybenzyloxy)but-2-oxyamine | 5.16 g, 68% | COC1=CC=C(COCC(CCOCC2=CC=C(C=C2)OC)ON)C=C1 | C20H27NO5
